US09168248B2
5-(Trifluoromethoxy)-3,4-dihydrospiro[chromene-2,4′-piperidinium]chloride
1-Bromo-2-(methoxymethoxy)-4-(trifluoromethoxy)benzene To a cold solution of 2-bromo-5-(trifluoromethoxy)phenol (50 g, 195 mmol) and Hunig's base (120 mL, 687 mmol) in CH2Cl2 (100 mL) at −78° C. (frozen as a white cake) was added MOM-Cl (35 mL, 461 mmol). The white cake was warmed to room temperature and stirred overnight. The mixture was diluted with water (150 mL), the mixture was stirred for 15 min and extracted with CH2Cl2 (2×). The CH2Cl2 extracts were combined, washed with brine, dried (Na2SO4), filtered and concentrated. The resulting residue was purified by column chromatography on SiO2 (isocratic 10% EtOAc/hexanes) to afford the title product as a colorless oil. 1H NMR (400 MHz, acetone-d6): δ 7.74 (d, 1 H), 7.22 (d, 1 H), 6.99 (dd, 1 H), 5.40 (s, 2 H), 3.52 (s, 3 H).

reactant | 1-Bromo-2-(methoxymethoxy)-4-(trifluoromethoxy)benzene | BrC1=C(C=C(C=C1)OC(F)(F)F)OCOC | C9H8BrF3O3
reactant | 2-bromo-5-(trifluoromethoxy)phenol | 195 mmol, 50 g | BrC1=C(C=C(C=C1)OC(F)(F)F)O | C7H4BrF3O2
reactant | Hunig's base | 687 mmol, 120 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | MOM-Cl | 461 mmol, 35 mL | C(OC)Cl | C2H5ClO
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | water | 150 mL | O | H2O
product | 5-(Trifluoromethoxy)-3,4-dihydrospiro[chromene-2,4′-piperidinium]chloride | [Cl-].FC(OC1=C2CCC3(CC[NH2+]CC3)OC2=CC=C1)(F)F | InChI=1S/C14H16F3NO2.ClH/c15-14(16,17)20-12-3-1-2-11-10(12)4-5-13(19-11)6-8-18-9-7-13;/h1-3,18H,4-9H2;1H
